US04760163
using 3-amino-2-cyanocrotononitrile and isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate there is obtained isopropyl 5-[6-amino-5-cyano-4-methyl-2-oxo-1(2H)-pyrimidinyl]-2-chloro-4-fluorobenzoate, m.p. 255°-257° C.

reactant | 3-amino-2-cyanocrotononitrile | NC(=C(C#N)C#N)C | C5H5N3
reactant | isopropyl 2-chloro-4-fluoro-5-isocyanatobenzoate | ClC1=C(C(=O)OC(C)C)C=C(C(=C1)F)N=C=O | C11H9ClFNO3
product | isopropyl 5-[6-amino-5-cyano-4-methyl-2-oxo-1(2H)-pyrimidinyl]-2-chloro-4-fluorobenzoate | NC1=C(C(=NC(N1C=1C(=CC(=C(C(=O)OC(C)C)C1)Cl)F)=O)C)C#N | C16H14ClFN4O3
